US04535186
1-[2-amino-1-(4-chlorophenyl)ethyl]cyclohexanol
Lithium aluminum hydride (3.5 g.) was suspended in ice cold tetrahydrofuran (125 ml.) and concentrated sulphuric acid (2.5 ml.) added cautiously, with stirring. After one hour, 1-[cyano(p-chlorophenyl)methyl]cyclohexanol (15 g., 0.06 mole) was dissolved in tetrahydrofuran (100 ml.) and added rapidly dropwise with vigorous stirring and cooling. After a further two hours, a tetrahydrofuran-water mixture (1:1; 30 ml.) was added followed by 10% sodium hydroxide solution (50 ml.). The tetrahydrofuran was decanted and the residue washed well with diethyl ether and ethylacetate. The combined organic solution was dried over anhydrous potassium carbonate and evaporated to an oil (12 g.)

reactant | Lithium aluminum hydride | 3.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulphuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-[cyano(p-chlorophenyl)methyl]cyclohexanol | 0.06 mole, 15 g | C(#N)C(C1(CCCCC1)O)C1=CC=C(C=C1)Cl | C14H16ClNO
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran water | 30 ml | O1CCCC1.O
product | 1-[2-amino-1-(4-chlorophenyl)ethyl]cyclohexanol | NCC(C1=CC=C(C=C1)Cl)C1(CCCCC1)O | C14H20ClNO
